US04760163
6.3 g of sulphuryl chloride are added dropwise with stirring to a solution of 15.0 g of isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate in 100 ml of acetic acid at room temperature during 1 minute, during which the temperature rises to approx. 30° C. Then the reaction mixture is stirred for a further 15 minutes at room temperature and evaporated to dryness under reduced pressure. The residue is dissolved in ethyl acetate and the solution washed in turn with aqueous sodium bicarbonate solution and water. The organic phase is dried over anhydrous sodium sulphate and evaporated to dryness. The residue is recrystallized from methylene chloride/diethyl ether. Isopropyl 2-chloro-4-fluoro-5-[5-chloro-3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 150°-153° C., is obtained.

reactant | sulphuryl chloride | 6.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | 15.0 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C)=O | C16H16ClFN2O4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | Isopropyl 2-chloro-4-fluoro-5-[5-chloro-3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=C(C1=O)Cl)C)C)=O | C16H15Cl2FN2O4
